US07053071B2
Aqueous Na2CO3 (1.4 mL, 2.0 M) was added to the ethyl (trifluoro-methane-sulfonyloxy)cinnamate (0.55 g, 1.53 mmol), 3-(1-adamantyl)-4-benzyloxyphenylboronic acid (0.50 g, 1.38 mmol) [1H NMR spectrum (300 MHz, CDCl3) δ 1.77, 2.26 (2 s, 12, AdCH2), 2.07 (s, 3, AdCH), 5.21 (s, 2, CH2), 7.06 (d, J=8.2 Hz, 1, ArH), 7.3–7.5 (mn, 5, ArH), 8.03 (d, J=7.8 Hz, 1, ArH), 8.19 ppm (s, 1, ArH)], tetrakis(triphenylphosphine)palladium (0.16 g, 0.14 mmol), and lithium chloride (0.13 g, 3.1 mmol) in dimethoxyethane (12 mL) under argon. The mixture was heated at reflux (80–85° C.) overnight to achieve the biaryl coupling, then worked-up, and chromatographed (10% ethyl acetate/hexane) to give ethyl (E)-4-[3-(1-adamantyl)-4-benzyloxyphenyl]-3-chlorocinnamate as a white solid (0.58 g, 79%): m.p. 148–150° C.; Rf0.61 (20% ethyl acetate/hexane); 1H NMR spectrum (300 MHz, CDCl3) δ 1.73, 2.17 (2 s, 12, AdCH2), 2.04 (s, 3, AdCH), 1.33 (t, J=7.1 Hz, 3 CH3), 4.26 (q, J=7.1 Hz, 2, CH2), 5.17 (s, 2, CH2), 6.46 (d, J=15.9 Hz, 1, HC═CCO), 7.00 (d, J=8.2 Hz, 1, ArH), 7.3–7.5 (m, 8, ArH), 7.52 (d, J=7.1 Hz, 1, ArH), 7.62 (s, 1, ArH), 7.65 ppm (d, J=15.4 Hz, 1, C═CHCO).

reactant | Na2CO3 | 2.0 M, 1.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl (trifluoro-methane-sulfonyloxy)cinnamate | 1.53 mmol, 0.55 g | FC(S(=O)(=O)OC(C(=O)OCC)=CC1=CC=CC=C1)(F)F | C12H11F3O5S
reactant | 3-(1-adamantyl)-4-benzyloxyphenylboronic acid | 1.38 mmol, 0.50 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC2=CC=CC=C2)B(O)O | C23H27BO3
reactant | lithium chloride | 3.1 mmol, 0.13 g | [Cl-].[Li+]
solvent | dimethoxyethane | 12 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl (E)-4-[3-(1-adamantyl)-4-benzyloxyphenyl]-3-chlorocinnamate | 0.58 g, 79% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC2=CC=CC=C2)C2=C(C=C(/C=C/C(=O)OCC)C=C2)Cl | C34H35ClO3
